US04139624
Treatment of 2-(3-methoxy-2-pyridylmethylthio)ethylamine with benzoyl isothiocyanate in refluxing chloroform yields N-benzoyl-N'-[2-(3-methoxy-2-pyridylmethylthio)ethyl]thiourea. The hydrobromide salt of this thiourea is refluxed with 1,3-dibromopropane in ethanol and the N-benzoyl groups removed by hydrolysis to yield 1,3-bis-[S-(N-(2-(3-methoxy-2-pyridylmethylthio)ethyl) isothioureido]propane tetrahydrobromide.

reactant | 2-(3-methoxy-2-pyridylmethylthio)ethylamine | COC=1C(=NC=CC1)CSCCN | C9H14N2OS
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-benzoyl-N'-[2-(3-methoxy-2-pyridylmethylthio)ethyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCSCC1=NC=CC=C1OC | C17H19N3O2S2
